data/mechanisms/records/IMS9-EQ9.8.json
{"mechanism_id": "IMS9-EQ9.8", "species": [{"species_id": "pregnane_molecular_ion", "mapped_smiles": "[CH2:1]1[CH2:2][CH2:3][CH2:4][CH:5]2[CH2:6][CH2:7][CH:8]3[CH:9]([C:10]12[CH3:19])[CH2:11][CH2:12][C:13]4([CH3:18])[CH:14]3[CH2:15][CH2:16][CH:17]4[CH2:20][CH3:21]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_d_opened_distonic_ion", "mapped_smiles": "[CH2:1]1[CH2:2][CH2:3][CH2:4][CH:5]2[CH2:6][CH2:7][CH:8]3[CH:9]([C:10]12[CH3:19])[CH2:11][CH2:12][C+:13]([CH3:18])[CH:14]3[CH2:15][CH2:16][CH:17][CH2:20][CH3:21]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c18_methylene_radical_distonic_ion", "mapped_smiles": "[CH2:1]1[CH2:2][CH2:3][CH2:4][CH:5]2[CH2:6][CH2:7][CH:8]3[CH:9]([C:10]12[CH3:19])[CH2:11][CH2:12][C+:13]([CH2:18])[CH:14]3[CH2:15][CH2:16][CH2:17][CH2:20][CH3:21]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "c16_radical_distonic_ion", "mapped_smiles": "[CH2:1]1[CH2:2][CH2:3][CH2:4][CH:5]2[CH2:6][CH2:7][CH:8]3[CH:9]([C:10]12[CH3:19])[CH2:11][CH2:12][C+:13]([CH3:18])[CH:14]3[CH2:15][CH:16][CH2:17][CH2:20][CH3:21]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ion_mz_218", "mapped_smiles": "[CH2:1]1[CH2:2][CH2:3][CH2:4][CH:5]2[CH2:6][CH2:7][CH:8]3[CH:9]([C:10]12[CH3:19])[CH2:11][CH2:12][C+:13]([CH3:18])[CH:14]3", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "pent_1_ene_neutral", "mapped_smiles": "[CH2:15]=[CH:16][CH2:17][CH2:20][CH3:21]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["pregnane_molecular_ion"]}, {"state_id": "state_ring_d_opened", "species_ids": ["ring_d_opened_distonic_ion"]}, {"state_id": "state_after_first_rH", "species_ids": ["c18_methylene_radical_distonic_ion"]}, {"state_id": "state_after_second_rH", "species_ids": ["c16_radical_distonic_ion"]}, {"state_id": "state_products", "species_ids": ["ion_mz_218", "pent_1_ene_neutral"]}], "steps": [{"step_id": "step_alpha_ring_d_opening", "from_state": "state_precursor", "to_state": "state_ring_d_opened", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [13, 17]}, "target": {"type": "external", "atom_maps": []}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [13, 17]}, "target": {"type": "atom", "atom_maps": [17]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_c18_to_c17", "from_state": "state_ring_d_opened", "to_state": "state_after_first_rH", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [17]}, "target": {"type": "atom", "atom_maps": [18]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_c16_to_c18", "from_state": "state_after_first_rH", "to_state": "state_after_second_rH", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [18]}, "target": {"type": "atom", "atom_maps": [16]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_c14_c15_cleavage", "from_state": "state_after_second_rH", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [16]}, "target": {"type": "bond", "atom_maps": [15, 16]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [14, 15]}, "target": {"type": "bond", "atom_maps": [15, 16]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [14, 15]}, "target": {"type": "atom", "atom_maps": [14]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_ring_d_opening", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ring_d_opening", "support_type": "textbook_proposed", "locator": {"page": 235, "equation": "9.8", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (saturated steroid hydrocarbons)"}, "confidence": 0.7, "curator_note": "Book draws 0 arc(s) on the intact steroid: the reaction arrow carries only the label 'alpha' and the starting structure bears no '+' and no '.' at all. Both encoded moves are therefore implicit, and the regiochemistry is read off the DRAWN PRODUCT, which prints '+' on C13 and '.' on C17 -- i.e. the C13-C17 bond of ring D is the ionized sigma bond. Move <1> sends one of its two electrons to 'external' (the EI ionization hole; same convention as the saturated-hydrocarbon M+. records IMS4-EQ4.3a / IMS4-EQ4.7 / IMS4-EQ4.8, where the precursor SMILES is the neutral closed-shell hydrocarbon and charge=1/radical_electrons=1 live in the species fields), move <2> is the implicit homolysis hook that puts the odd electron on C17. Neither is drawn on the page."}, {"evidence_id": "evidence_step_rH_c18_to_c17", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_c18_to_c17", "support_type": "textbook_proposed", "locator": {"page": 235, "equation": "9.8", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (rH labelled on the second reaction arrow)"}, "confidence": 0.7, "curator_note": "Book draws 1 arc: one curved arrow that starts on the C18-H bond (the angular methyl is spelled out as 'H2C-H' to single out the migrating hydrogen), arches over the top of the structure and points down at the C17 radical site. Move <1> encodes exactly that arc, compressed into the net C17 -> C18 radical migration of the H-ATOM transfer; the hydrogen itself is implicit in the mapped SMILES (same compression as the canonical rH record IMS4-EQ4.33). The remaining hooks of a fully resolved H-atom transfer (the C17 odd electron reaching the H, and the second C18-H electron staying on C18) are NOT drawn on the page."}, {"evidence_id": "evidence_step_rH_c16_to_c18", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_c16_to_c18", "support_type": "textbook_proposed", "locator": {"page": 235, "equation": "9.8", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (rH labelled on the third reaction arrow)"}, "confidence": 0.7, "curator_note": "Book draws 2 arc(s) on this structure: (i) a short fishhook leaving the C18 radical (printed 'H2C.') and pointing down-left at the hydrogen that is written out explicitly on C16, and (ii) a long fishhook from that C16-H bond back up to C18. Move <1> encodes both arcs as the net C18 -> C16 radical migration of the H-atom transfer, the hydrogen being implicit in the mapped SMILES. The third hook of a fully resolved H-atom transfer (the second C16-H electron remaining on C16) is not drawn on the page."}, {"evidence_id": "evidence_step_alpha_c14_c15_cleavage", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_c14_c15_cleavage", "support_type": "textbook_proposed", "locator": {"page": 235, "equation": "9.8", "figure": null, "panel": null, "section": "9.1 Hydrocarbons (alpha labelled on the fourth reaction arrow)"}, "confidence": 0.8, "curator_note": "Book draws 2 arc(s); moves <1,2> are drawn (a fishhook from the C16 radical into the forming C15=C16 pi bond, and a fishhook from the C14-C15 sigma bond into the same forming pi bond), and move <3> is an implicit homolysis hook required for electron balance (not drawn on the page) -- it carries the second C14-C15 electron to C14, which is where the drawn m/z 218 product prints its '.' next to the '+' on C13. The expelled neutral is drawn as CH2=CHCH2R."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 288.2812, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_218", "species_id": "ion_mz_218", "step_id": "step_alpha_c14_c15_cleavage", "observed_mz": 218.2029, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.75}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
